US08212045B2
To a solution of (S)-N-(5-bromo-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (3.1 g, 6.14 mmol) in dioxanes (30 mL) continuously purged with nitrogen was added Xanphos (0.177 g, 0.303 mmol), Pd2dba3 (0.14 g, 0.153 mmol), methyl 3-mercaptopropanoate (0.73 g, 6.14 mmol) and N,N-diisopropylethylamine (1.17 mL, 6.45 mmol) and the reaction heated overnight at 80° C. The reaction was concentrated in vacuo and the residue purified over silica gel (5% MeOH/CH2Cl2) to afford (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate (2.3 g, 68%).

reactant | (S)-N-(5-bromo-3-(2-methylpyridin-3-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 6.14 mmol, 3.1 g | BrC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NC=CC2)C | C21H22BrN5O3S
reactant | methyl 3-mercaptopropanoate | 6.14 mmol, 0.73 g | SCCC(=O)OC | C4H8O2S
reactant | N,N-diisopropylethylamine | 6.45 mmol, 1.17 mL | C(C)(C)N(C(C)C)CC | C8H19N
catalyst | Pd2dba3 | 0.153 mmol, 0.14 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(2-methylpyridin-3-yloxy)pyridin-3-ylthio)propanoate | 2.3 g, 68% | O1[C@H](COC12CCCCC2)C2=NSC(=N2)NC2=C(C=C(C=N2)SCCC(=O)OC)OC=2C(=NC=CC2)C | C25H29N5O5S2
